US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate ethyl 3-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propionate (3.30 g, 10.6 mmol) by reaction with m-CPBA (4.63 g) to provide ethyl 3-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propionate followed by reaction with p-toluenesulfonyl chloride (3.53 g, 18.6 mmol) and ammonium hydroxide solution (50 mL) to provide ethyl 3-(4-amino-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propionate as an off-white solid after recrystallization from aqueous methanol, mp 156-157° C.

reactant | ethyl 3-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propionate | 10.6 mmol, 3.30 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCC(=O)OCC | C18H21N3O2
reactant | m-CPBA | 4.63 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | ethyl 3-(5-oxido-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)propionate | [O-][N+]1=CC2=C(C=3C=CC=CC13)N(C(=N2)CCC)CCC(=O)OCC | C18H21N3O3
